### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization): add facts about localization at minimal prime ideals

### PR DESCRIPTION
**Pull request by uniwuni**
Show that localization at minimal primes results in rings with only a single prime ideal, implying that every non-unit element is nilpotent.

Co-authored-by: Junyan Xu <junyanxumath@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by uniwuni** [comment]
It wouldn't take much effort to show that the prime spectrum of these rings is a single point but I'm not sure where this would fit exactly

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 1]
```diff
@@ -0,0 +1,66 @@
...
+/-!
+# Localization at minimal prime ideals
+## Main results
+- `AtMinimalPrime.prime_unique`: When localizing at a minimal prime ideal `I`, the resulting
+  ring only has a single prime ideal.
+## Tags
+localization, prime, minimal, nilpotent
+-/
+
+variable {R : Type*} [CommSemiring R] (M : Submonoid R) (S : Type*) [CommSemiring S]
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:19]: Why keeping these variables outside the section and the following ones inside it?

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 2]
```diff
@@ -0,0 +1,66 @@
...
+import Mathlib.RingTheory.Localization.AtPrime
+import Mathlib.RingTheory.Nilpotent
+import Mathlib.RingTheory.Ideal.MinimalPrime
+
+/-!
+# Localization at minimal prime ideals
+## Main results
+- `AtMinimalPrime.prime_unique`: When localizing at a minimal prime ideal `I`, the resulting
+  ring only has a single prime ideal.
+## Tags
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:15]: Add one line here?

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+variable {R : Type*} [CommSemiring R] (M : Submonoid R) (S : Type*) [CommSemiring S]
+
+variable [Algebra R S]
+
+section AtMinimalPrime
+namespace Localization
+
+open IsLocalization
+
+attribute [local instance] Classical.propDecidable
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:28]:
```suggestion
```

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 4]
```diff
@@ -0,0 +1,66 @@
+/-
+Copyright (c) 2024 Uni Marx. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Uni Marx
+-/
+import Mathlib.RingTheory.Localization.AtPrime
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:6]: I think this whole file should go inside `Localization.AtPrime` which is still quite small.

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 5]
```diff
@@ -0,0 +1,66 @@
...
+attribute [local instance] Classical.propDecidable
+
+variable {I : Ideal R} [hI : I.IsPrime] (hMin : I ∈ minimalPrimes R)
+
+theorem AtMinimalPrime.prime_unique (J : Ideal (Localization I.primeCompl)) [hPrime : J.IsPrime] :
+    J = LocalRing.maximalIdeal (Localization I.primeCompl) := by
+  let i_sub : {p : Ideal (Localization I.primeCompl) // Ideal.IsPrime p} :=
+    ⟨_, Ideal.IsMaximal.isPrime' <| LocalRing.maximalIdeal (Localization (Ideal.primeCompl I))⟩
+  let j_sub : {p : Ideal (Localization I.primeCompl) // Ideal.IsPrime p} := ⟨_, hPrime⟩
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:37]:
```suggestion
```

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 6]
```diff
@@ -0,0 +1,66 @@
...
+  suffices h: j_sub ≤ i_sub → i_sub ≤ j_sub by
+    apply le_antisymm (LocalRing.le_maximalIdeal hPrime.ne_top)
+    rw [← Subtype.mk_le_mk]
+    apply h
+    exact LocalRing.le_maximalIdeal hPrime.ne_top
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:43]:
```suggestion
```

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 7]
```diff
@@ -0,0 +1,66 @@
...
+  exact hMin.2 ⟨Ideal.comap_isPrime (algebraMap R (Localization (Ideal.primeCompl I))) J, bot_le⟩
+
+theorem AtMinimalPrime.nilpotent_iff_mem_maximal {x : _} :
+    IsNilpotent x ↔ x ∈ LocalRing.maximalIdeal (Localization I.primeCompl) := by
+  rw [nilpotent_iff_mem_prime]
+  constructor
+  · exact fun h => h (LocalRing.maximalIdeal _) (Ideal.IsMaximal.isPrime' _)
+  · intro h J hJ
+    rw [prime_unique hMin J]
+    exact h
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:58]:
```suggestion
  exact ⟨(· (LocalRing.maximalIdeal _) (Ideal.IsMaximal.isPrime' _)), fun _ J _ =>
    by simpa [prime_unique hMin J]⟩
```

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean [hunk 8]
```diff
@@ -0,0 +1,66 @@
...
+
+theorem AtMinimalPrime.nilpotent_iff_not_unit {x : Localization I.primeCompl} :
+    IsNilpotent x ↔ x ∈ nonunits _ := by
+  rw [← LocalRing.mem_maximalIdeal]
+  exact AtMinimalPrime.nilpotent_iff_mem_maximal hMin
```
Comment (faenuccio) [inline Mathlib/RingTheory/Localization/AtMinimalPrime.lean:63]:
```suggestion
  simpa only [← LocalRing.mem_maximalIdeal] using AtMinimalPrime.nilpotent_iff_mem_maximal hMin
```

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean (hunk 4 above)
Comment (uniwuni) [reply Mathlib/RingTheory/Localization/AtMinimalPrime.lean:6]: Not possible due to import cycles, sadly. I could put it in Ideal.MinimalPrime but I don't think that fits at all

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean (hunk 8 above)
Comment (uniwuni) [reply Mathlib/RingTheory/Localization/AtMinimalPrime.lean]: thanks, been searching for a way to avoid this rw/exact antipattern for ages, somehow I always missed simpa

File: Mathlib/RingTheory/Localization/AtMinimalPrime.lean (hunk 4 above)
Comment (faenuccio) [reply Mathlib/RingTheory/Localization/AtMinimalPrime.lean:6]: I have looked at `ideal.MinimalPrime` and I think it would indeed fit there: there are results concerning localization (which are precisely the ones causing this import clash) and yours would be part of those.

**Comment by faenuccio** [comment]
> It wouldn't take much effort to show that the prime spectrum of these rings is a single point but I'm not sure where this would fit exactly

I agree that this should be added, probably in `Mathlib.AlgebraicGeometry.PrimeSpectrum.Basic` (where, for instances, there are results like [PrimeSpectrum.t1Space_iff_isField](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.html#PrimeSpectrum.t1Space_iff_isField) )

**Comment by uniwuni** [comment]
> I agree that this should be added, probably in `Mathlib.AlgebraicGeometry.PrimeSpectrum.Basic` (where, for instances, there are results like [PrimeSpectrum.t1Space_iff_isField](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.html#PrimeSpectrum.t1Space_iff_isField) )

Done. I think the `Unique`ness result should be enough for the moment

**Comment by alreadydone** [comment]
[Here](https://github.com/leanprover-community/mathlib4/compare/uniwuni/localization_min_ideals...jyxu/localization_minimalPrime?expand=1) is a slight refactor that introduces IsLocalization.AtPrime.orderIsoOfPrime and IsLocalization.AtPrime.prime_unique_of_minimal.

**Comment by faenuccio** [comment]
Apart from @alreadydone 's comment, the whole PR now LGTM.

**Comment by uniwuni** [comment]
> [Here](https://github.com/leanprover-community/mathlib4/compare/uniwuni/localization_min_ideals...jyxu/localization_minimalPrime?expand=1) is a slight refactor that introduces IsLocalization.AtPrime.orderIsoOfPrime and IsLocalization.AtPrime.prime_unique_of_minimal. Feel free to merge if it looks good.

If you add docs to the `def` to make it compile, I'll do so, sure!

**Comment by alreadydone** [comment]
I've now added a docstring, but this is something you could have done :)

**Comment by uniwuni** [comment]
> I've now added a docstring, but this is something you could have done :)

Sorry, I wasn't at home at the moment, thought it'd be quicker that way!

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
